US04841077
2-Mercaptothiazoline (35 mg) was added to a mixture of 4',5,7-trihydroxy-2-bromomethylisoflavone (50 mg), anhydrous potassium carbonate (21 mg) and N,N-dimethylformamide (1 ml), and the resulting mixture was stirred at room temperature for 10 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform), giving 32 mg of 4',5,7-trihydroxy-2-[2-thiazolin-2-ylthio)-methyl]isoflavone as amorphous powder.

reactant | 2-Mercaptothiazoline | 35 mg | SC=1SCCN1 | C3H5NS2
reactant | 4',5,7-trihydroxy-2-bromomethylisoflavone | 50 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)CBr)C=C1 | C16H11BrO5
reactant | potassium carbonate | 21 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | isoflavone | O1C=C(C(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C15H10O2
